US05891899
iv) 2-Amino-2-(4-carboxyphenyl)-3-(9H-thioxanthen-9-yl)propanoic acid
5-(4-Cyanophenyl)-5-(9H-thioxanthen-9-ylmethyl)hydantoin (2.3 g, 5.5 mmol) was hydrolysed in aqueous sodium hydroxide (16.5 ml) following the procedure described in Example 1 (vi) for 72 h at 150° C. The cooled reaction mixture was then acidified with acetic acid, the resulting solid precipitate was filtered and washed with diethylether to give an off white solid. The solid was redissolved in aqueous sodium hydroxide (2M), filtered through a celite pad and acidified with acetic acid, filtered, washed with water, diethylether and finally methanol and then dried in vacuo to give the title compound as a white solid, m.p. 251° C.

reactant | 5-(4-Cyanophenyl)-5-(9H-thioxanthen-9-ylmethyl)hydantoin | 5.5 mmol, 2.3 g | C(#N)C1=CC=C(C=C1)C1(C(NC(N1)=O)=O)CC1C2=CC=CC=C2SC=2C=CC=CC12 | C24H17N3O2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 16.5 ml | [OH-].[Na+]
reactant | sodium hydroxide | 2M | [OH-].[Na+]
product | 2-Amino-2-(4-carboxyphenyl)-3-(9H-thioxanthen-9-yl)propanoic acid | NC(C(=O)O)(CC1C2=CC=CC=C2SC=2C=CC=CC12)C1=CC=C(C=C1)C(=O)O | C23H19NO4S
